US05252538
Preparation of diethyl 3-(m-chlorophenyl)-4-methyl-2-oxo-2H-pyrano[2,3-b]pyridine-6,7-dicarboxylate
Diethyl 5-acetyl-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate (12.0 g, 0.043 mol), 3-chlorophenyl acetic acid (7.33 g, 0.043 mol) and triethylamine (6.52 g) are refluxed in 120 mL of acetic anhydride for three hours. The reaction mixture is cooled, poured into 120 mL of ice-cold water and made alkaline to pH 8 with an ammonium hydroxide solution. The crystalline solid is filtered and washed with water to give (17.0 g, 95%) of the product after drying. Recrystallization from ethyl acetate affords the pure product (13.29, 74% yield), melting point 170°-172° C.

reactant | Diethyl 5-acetyl-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate | 0.043 mol, 12.0 g | C(C)(=O)C1=CC(=C(NC1=O)C(=O)OCC)C(=O)OCC | C13H15NO6
reactant | 3-chlorophenyl acetic acid | 0.043 mol, 7.33 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | triethylamine | 6.52 g | C(C)N(CC)CC | C6H15N
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic anhydride | 120 mL | C(C)(=O)OC(C)=O | C4H6O3
product | diethyl 3-(m-chlorophenyl)-4-methyl-2-oxo-2H-pyrano[2,3-b]pyridine-6,7-dicarboxylate | 17.0 g, 95% | ClC=1C=C(C=CC1)C1=C(C=2C(=NC(=C(C2)C(=O)OCC)C(=O)OCC)OC1=O)C | C21H18ClNO6
